US04191683
197.3 g of 2,6-diethyl-2,3,6-trimethylpiperidine-4-one and 30.0 g of ethylenediamine are dissolved in one liter of methanol. 10 g of a platin-carbon catalyst (5% b.w. Pt) are added, and the solution is hydrogenated at 30°-35° C. and normal pressure. Hydrogenation is completed after 106 hours. The catalyst is filtered off, the solvent is evaporated in vacuo, and the oily residue is purified by molecular distillation at 150° C. and 0.005 mm Hg. N,N'-Bis-(2,6-diethyl-2,3,6-trimethyl-4-piperidyl)-ethylenediamine (compound no. 7) is obtained as a practically colourless oil. If, instead of 30.0 g of ethylenediamine an equivalent amount of 1,6-hexamethylenediamine is used and otherwise the procedure described above is followed, after molecular distillation at 180° C. and 0.002 mm Hg. N,N'-Bis-(2,6-diethyl-2,3,6-trimethyl-4-piperidyl)-hexamethylene-1,6-diamine (compound no. 8) is obtained in the form of a thick colourless oil.

reactant | 2,6-diethyl-2,3,6-trimethylpiperidine-4-one | 197.3 g | C(C)C1(NC(CC(C1C)=O)(C)CC)C | C12H23NO
reactant | ethylenediamine | 30.0 g | C(CN)N | C2H8N2
solvent | methanol | one liter | CO | CH4O
catalyst | platin carbon | 10 g | [Pt].[C]
product | N,N'-Bis-(2,6-diethyl-2,3,6-trimethyl-4-piperidyl)-ethylenediamine | C(C)C1(NC(CC(C1C)NCCNC1C(C(NC(C1)(CC)C)(CC)C)C)(C)CC)C | C26H54N4
